US05216156
2-[(2-Hydroxyethyl)amino]-4,6-bis[N-(1-octadecyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine
The title compound is prepared from the reaction of 2-chloro-4,6-bis[N-(1-octadecyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine and ethanolamine according to the procedure of Example 1.

reactant | 2-chloro-4,6-bis[N-(1-octadecyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCCCCCCCCCCCC)(C)C)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCCCCCCCCCCCC)(C)C | C65H126ClN7O2
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[(2-Hydroxyethyl)amino]-4,6-bis[N-(1-octadecyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | OCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCCCCCCCCCCCC)(C)C)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCCCCCCCCCCCC)(C)C | C67H132N8O3
